US05760032
Ethyl 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-hydroxymethyl[1,2,4]triazol-5-ylmethylcarbamoyl)indole-1-acetate is subjected to alkali hydrolysis using a 2M aqueous sodium hydroxide solution to give 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-hydroxymethyl[1,2,4]triazol-5-ylmethylcarbamoyl)indole-1-acetic acid.

reactant | Ethyl 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-hydroxymethyl[1,2,4]triazol-5-ylmethylcarbamoyl)indole-1-acetate | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2CNC(=O)C=2N(C3=CC=CC=C3C2)CC(=O)OCC)CO)C=CC=C1 | C30H28ClN5O5S
reactant | sodium hydroxide | 2M | [OH-].[Na+]
product | 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-hydroxymethyl[1,2,4]triazol-5-ylmethylcarbamoyl)indole-1-acetic acid | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2CNC(=O)C=2N(C3=CC=CC=C3C2)CC(=O)O)CO)C=CC=C1 | C28H24ClN5O5S
